US04751227
In 40 ml of ethanol, 6.9 g of 6-imidazo[1,2-a]-pyridinecarbaldehyde was stirred under reflux for 14 hours, together with 10.6 g of nitroethane and 30 drops of n-butyl amine. Then, a small quantity of ethyl amine was added thereto and the mixture was stirred under reflux for further 18 hours. After insoluble matter was removed by filtration upon heating, 50 ml of ethanol and 150 ml of ether were further added to remove insoluble matter by filtration. The solvent was removed by distillation under reduced pressure and the residue was recrystallized twice from ethanol to obtain 1.14 g of 6-(2-nitro-1-propenyl)imidazo[1,2-a]pyridine.

reactant | 6-imidazo[1,2-a]-pyridinecarbaldehyde | 6.9 g | N=1C=CN2C1C=CC(=C2)C=O | C8H6N2O
reactant | nitroethane | 10.6 g | [N+](=O)([O-])CC | C2H5NO2
reactant | ethyl amine | C(C)N | C2H7N
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | n-butyl amine | 30 drops | C(CCC)N | C4H11N
product | 6-(2-nitro-1-propenyl)imidazo[1,2-a]pyridine | 1.14 g | [N+](=O)([O-])C(=CC=1C=CC=2N(C1)C=CN2)C | C10H9N3O2
